US05821253
[2-(4-Methoxyphenyl)-3,4-dihydronaphth-1-yl][4-(1-pyrrolidinyl-2-ethoxy)phenyl]carbinol
850 mg (1.9 mmol) of [2-(4-methoxyphenyl)-3,4-dihydronaphth-1-yl][4-(1-pyrrolidinyl-2-ethoxy)phenyl] methanone was dissolved in 100 mL of THF and 160 mg (4 mmol) of LiAlH4 was added. The reaction mixture was stirred at room temperature and under a N2 atmosphere for eighteen hours. The reaction mixture was evaporated to dryness in vacuo. Fifty mL of water was carefully added to the residue and the reaction mixture was extracted twice with 100 mL of EtOAc. The EtOAc extracts were combind and washed with water, then the EtOAc layer was removed and dried by filteration through anhydrous Na2SO4 and evaporated to dryness in vacuo. This yielded 670 mg of the title compound as a white amorphous powder.

reactant | [2-(4-methoxyphenyl)-3,4-dihydronaphth-1-yl][4-(1-pyrrolidinyl-2-ethoxy)phenyl] methanone | 1.9 mmol, 850 mg | COC1=CC=C(C=C1)C1=C(C2=CC=CC=C2CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCC1 | C30H31NO3
reactant | LiAlH4 | 4 mmol, 160 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [2-(4-Methoxyphenyl)-3,4-dihydronaphth-1-yl][4-(1-pyrrolidinyl-2-ethoxy)phenyl]carbinol | COC1=CC=C(C=C1)C1=C(C2=CC=CC=C2CC1)C(O)C1=CC=C(C=C1)OCCN1CCCC1 | C30H33NO3
